US04946843
A mixture of 16.9 parts of N-(4-amino-3-pyridinyl)-N'-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl)-1-piperazinyl]ethyl]thiourea, 11.4 parts of mercury(II)oxide, 0.1 parts of sulfur and 135 parts of tetrahydrofuran was stirred for 3 hours at reflux temperature. The reaction mixture was filtered while hot over diatomaceous earth and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol, saturated with ammonia, (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was stirred in 2,2'-oxybispropane. The product was filtered off and dried, yielding 4.73 parts (30.0%) of N-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperazinyl]ethyl]-1H-imidazo[4,5-c]pyridin-2-amine; mp. 124.5° C. (compound 123).

reactant | N-(4-amino-3-pyridinyl)-N'-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl)-1-piperazinyl]ethyl]thiourea | NC1=C(C=NC=C1)NC(=S)NCCN1CCN(CC1)CC1=NC=2C(=NC=CC2)N1CCOCC | C23H33N9OS
reactant | sulfur | [S] | S
catalyst | mercury(II)oxide | [Hg]=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperazinyl]ethyl]-1H-imidazo[4,5-c]pyridin-2-amine | 30.0% | C(C)OCCN1C(=NC=2C1=NC=CC2)CN2CCN(CC2)CCNC=2NC1=C(C=NC=C1)N2 | C23H31N9O
